US06953806B2
To an ice-cooled solution of 27.6 g (107 mmol) trans-[4-(tert-butyl-dimethyl-silanyloxymethyl)-cyclohexyl]-methanol and 9.99 ml (128 mmol) of methanesulfonyl chloride in 350 ml of dichloromethane was added under stirring at 0-10° C. 29.6 ml (213 mmol) triethylamine within 20 minutes. The reaction-mixture was then stirred for 1 hour at room temperature. It was then partitioned between dichloromethane, 1N HCl and water. The dichloromethane-phase was dried over magnesium sulfate and concentrated to yield 38.2 g crude trans-methanesulfonic acid 4-(tert-butyl-dimethyl-silanyloxymethyl)-cyclohexylmethyl ester as colorless viscous oil, MS: 354 (M+NH4+).

reactant | trans-[4-(tert-butyl-dimethyl-silanyloxymethyl)-cyclohexyl]-methanol | 107 mmol, 27.6 g | C(C)(C)(C)[SiH2]OC([C@@H]1CC[C@H](CC1)CO)(C)C | C14H30O2Si
reactant | methanesulfonyl chloride | 128 mmol, 9.99 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 213 mmol, 29.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | trans-methanesulfonic acid 4-(tert-butyl-dimethyl-silanyloxymethyl)-cyclohexylmethyl ester | 38.2 g | C(C)(C)(C)[SiH2]OC([C@@H]1CC[C@H](CC1)COS(=O)(=O)C)(C)C | C15H32O4SSi
